US04647301
A mixture of 3 g 5-trifluoromethoxy-2-pyridinemethanol is vigorously stirred in 120 mL water at 5° C. To this mixture is added in several portions 3.0 g potassium permanganate during which time the temperature rises to 25° C. After a further 30 minutes at 25° C., the mixture is filtered, the solid washed several times with water, the filtrate and washings combined and the pH adjusted to 5. The solution is concentrated to a small volume and extracted with ethyl acetate several times. The extract is washed, dried and concentrated to give 5-trifluoromethoxy-2-pyridinecarboxylic acid.

reactant | 5-trifluoromethoxy-2-pyridinemethanol | 3 g | FC(OC=1C=CC(=NC1)CO)(F)F | C7H6F3NO2
reactant | potassium permanganate | 3.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 120 mL | O | H2O
product | 5-trifluoromethoxy-2-pyridinecarboxylic acid | FC(OC=1C=CC(=NC1)C(=O)O)(F)F | C7H4F3NO3
